US06028195
1-[N-Isopropyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(100 mg, 0.25 mmol) was dissolved in dimethylformamide(15 ml) and thereto sodium hydride(6.0 mg, 0.25 mmol) was added, followed by stirring at room temperature for 15 min, and then 2-iodopropane(42 mg, 0.25 mmol) was added. The resulting mixture was stirred at room temperature for 16 hrs, concentrated under the reduced pressure to remove dimethylformamide, purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-[(5,6-Dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.25 mmol, 100 mg | CC=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C21H28N4O4
reactant | sodium hydride | 0.25 mmol, 6.0 mg | [H-].[Na+]
reactant | 2-iodopropane | 0.25 mmol, 42 mg | IC(C)C | C3H7I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 1-[N-Isopropyl-N-(5,6-dimethyl-2-methoxypyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 78% | C(C)(C)N(C(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)C=1C(=NC(=C(C1)C)C)OC | C24H34N4O4
